US07078565B2
(R)-Benzo[1,3]dioxole-5-carboxylic acid [2-(3,4-dimethoxy-phenyl)-ethyl]-(2-phenyl-propyl)-amide
A stirring solution of benzo[1,3]dioxole-5-carbonyl chloride (151 mg, 0.82 mmol) in MDC (5 ml) was treated with a pre-mixed solution of (R)-[2-(3,4-dimethoxy-phenyl)-ethyl]-(2-phenyl-propyl)-amine (D12, 245 mg, 0.75 mmol) and triethylamine (0.17 ml) in MDC (2 ml). After stirring under argon at room temperature for 72 h the solvent was removed in vacuo and the residue was chromatographed (silica gel, 0–40% EtOAc-pentane) to afford the title compound as a colourless gum (250 mg, 68%).

reactant | benzo[1,3]dioxole-5-carbonyl chloride | 0.82 mmol, 151 mg | O1COC2=C1C=CC(=C2)C(=O)Cl | C8H5ClO3
reactant | (R)-[2-(3,4-dimethoxy-phenyl)-ethyl]-(2-phenyl-propyl)-amine | 0.75 mmol, 245 mg | COC=1C=C(C=CC1OC)CCNC[C@H](C)C1=CC=CC=C1 | C19H25NO2
solvent | triethylamine | 0.17 ml | C(C)N(CC)CC | C6H15N
product | (R)-Benzo[1,3]dioxole-5-carboxylic acid [2-(3,4-dimethoxy-phenyl)-ethyl]-(2-phenyl-propyl)-amide | 250 mg, 68% | COC=1C=C(C=CC1OC)CCN(C(=O)C1=CC2=C(OCO2)C=C1)C[C@H](C)C1=CC=CC=C1 | C27H29NO5
